US06930214B2
A process of nitrating 1,4-bis(trifluoromethyl)benzene by means of 100 mass % nitric acid at from 90 to 105° C. by using 24% fuming sulfuric acid as a solvent to obtain 2,5-bis(trifluoromethyl)nitrobenzene in a yield of 35% (J. Amer. Chem. Soc., 75, 4967 (1953)).

reactant | 1,4-bis(trifluoromethyl)benzene | FC(C1=CC=C(C=C1)C(F)(F)F)(F)F | C8H4F6
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2,5-bis(trifluoromethyl)nitrobenzene | yield of 35% | FC(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])(F)F | C8H3F6NO2
